US08748613B2
37% Hydrogen chloride (4.18 ml, 50.9 mmol) was added to a solution of methyl 2-(4-fluorophenyl)-2-(piperidin-1-yl)acetate (320 mg, 1.27 mmol) in dioxane (5 ml). The reaction was stirred under microwave irradiation at 100° C. for 5 hours. The solvent was evaporated and the solid triturated with acetonitrile to obtain 2-(4-fluorophenyl)-2-(piperidin-1-yl)acetic acid hydrochloride (255 mg, 73% yield) as a white solid.

reactant | Hydrogen chloride | 50.9 mmol, 4.18 ml | Cl | ClH
reactant | methyl 2-(4-fluorophenyl)-2-(piperidin-1-yl)acetate | 1.27 mmol, 320 mg | FC1=CC=C(C=C1)C(C(=O)OC)N1CCCCC1 | C14H18FNO2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2-(4-fluorophenyl)-2-(piperidin-1-yl)acetic acid hydrochloride | 255 mg, 73% yield | Cl.FC1=CC=C(C=C1)C(C(=O)O)N1CCCCC1 | InChI=1S/C13H16FNO2.ClH/c14-11-6-4-10(5-7-11)12(13(16)17)15-8-2-1-3-9-15;/h4-7,12H,1-3,8-9H2,(H,16,17);1H
